US05792769
d) 2-Chlorobenzenesulfonic acid 3-[(piperidin-3-yl)methoxy]phenyl ester
2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]-methoxy]phenyl ester (482 mg, 1.0 mmol), as prepared in the preceding step, was treated with 30 mL of 4N HCl in 1,4-dioxane and the reaction mixture was stirred at room temperature for 2 h. The solvent was removed in vacuo and the residue was purified by flash column chromatography (5% methanol in methylene chloride to 5% methanol in methylene chloride saturated with NH3) to give the title compound as a white foam (315 mg, 82%). 1H-NMR (300 MHz, CDCl3) δ 1.46 (t, 1H), 1.94 (m, 3H), 2.45 (bs, 1H), 2.79 (q, 2H), 3.51 (dd, 2H), 3.75 (t, 1H), 3.83 (t, 1H), 4.63 (bs, 1H), 6.69 (m, 2H), 6.74 (dd, 1H), 7.16 (t, 1H), 7.39 (t, 1H), 7.62 (m, 2H), 7.95 (dd, 1H). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C18H20 NO4SCl: 382.1 (M+H). Found: 382.3.

reactant | 2-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-3-yl]-methoxy]phenyl ester | 1.0 mmol, 482 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C23H28ClNO6S
reactant | HCl | 4N, 30 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-Chlorobenzenesulfonic acid 3-[(piperidin-3-yl)methoxy]phenyl ester | 315 mg, 82% | N1CC(CCC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C18H20ClNO4S
